US07067506B2
To a stirred suspension of glycinamide hydrochloride (1.1 gm, 10 mmol) in 20 mL MeOH at 0° C. was added 20% NaOH (10 mL, 50 mmol). A clear solution formed and was treated slowly portionwise with benzil (2.1 gm, 10 mmol) as a solid. The yellow solution was stirred at 0° C. for 2 hours and then neutralized to approximately pH=7 with concentrated HCl. The bright yellow color disappeared and a tan precipitate formed. The material was isolated by filtration with MeOH and triturated with EtOAc to give 2-hydroxy-5,6-diphenylpyrazine (2 gm, 80%). 1H-NMR (400 MHz, CDCl3) δ8.24 (s, 1H), 7.42-7.31 (m, 4H), 7.39-7.21 (m, 6H).

reactant | glycinamide hydrochloride | 10 mmol, 1.1 gm | Cl.NCC(=O)N
reactant | NaOH | 50 mmol, 10 mL | [OH-].[Na+]
reactant | benzil | 10 mmol, 2.1 gm | C1(=CC=CC=C1)C(=O)C(=O)C1=CC=CC=C1 | C14H10O2
reactant | HCl | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
product | 2-hydroxy-5,6-diphenylpyrazine | 2 gm, 80% | OC1=NC(=C(N=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H12N2O
